US05360692
22.5 g of 4-methyl-6-benzotriazolylphenol, 11.0 g of diethylamine and 5.2 g of paraformaldehyde were dissolved in 25 ml of butanol, and heated to a temperature of 95° to 105° C. at which the solution was allowed to undergo reaction under reflux for about 24 hours. After the reaction, the solvent was removed from the reaction product under reduced pressure to obtain 30 g of 2-diethylaminomethyl-4-methyl-6-benzotriazolylphenol (a Mannich base compound).

reactant | 4-methyl-6-benzotriazolylphenol | 22.5 g | CC1=CC=C(C(=C1)C1=CC=CC=2NN=NC21)O | C13H11N3O
reactant | diethylamine | 11.0 g | C(C)NCC | C4H11N
reactant | paraformaldehyde | 5.2 g | C=O | CH2O
solvent | butanol | 25 ml | C(CCC)O | C4H10O
product | 2-diethylaminomethyl-4-methyl-6-benzotriazolylphenol | 30 g | C(C)N(CC)CC1=C(C(=CC(=C1)C)C1=CC=CC=2NN=NC21)O | C18H22N4O
